US04229438
Production of pGlu-(D)-Ala-Lys-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OH
In 2 ml of trifluoroacetic acid is dissolved 250 mg of pGlu-(D)-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OBut and the solution is allowed to stand at room temperature for 60 minutes. The solvent is distilled off and the residue is precipitated with ether and recovered by filtration. The resulting powders are dissolved in 50 ml of water and passed through a column of Amberlite IRA-410 (acetate-form) (2×5 cm). The effluent is combined with washings and lyophilized. The powdery lyophilizate is dissolved in a small amount of water and put onto a column of Sephadex LH-20 (2.5×125 cm), elution being carried out with 0.1 N-acetic acid. The fractions from 182 ml through 218 ml are pooled and lyophilized. Yield 86 mg (34%); [α]D23 -6.0°(c=0.25, water); Rf4 =0.23; amino acid analysis (as hydrolyzed with HCl): Lys, 0.97(1); Asp, 0.97(1); Ser, 1.80(2); Glu, 2.07(2); Gly, 1.00(1); Ala, 1.93(2); average recovery 82%.

reactant | pGlu-(D)-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OBut | 250 mg | N1[C@@H](CCC1=O)C(=O)N[C@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C43H72N12O17
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | pGlu-(D)-Ala-Lys-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C34H56N12O15
